*ZETEX  FMMT597Q Quasi-Sat Spice model    Last revision 4/7/91
*
.SUBCKT FMMT597Q 7 4 3
*                C B E
FIB 6 7 VIB 10
Q1 5 2 3 T597
VIB 2 4
R1 5 6 5.0
R2 5 7 75
D1 7 6 D597
*
.MODEL T597 PNP IS=8.79E-14 NF=1.0032 BF=180 IKF=1.5 VAF=647
+ISE=2.77E-14 NE=1.525 NR=1.03 ISC=5E-13 NC=1.3 VAR=80 BR=2.6
+IKR=.25 RB=.2 RE=.5 RC=0 CJC=20.8E-12 MJC=.505 VJC=.8
+CJE=106E-12 TF=1.4E-9 TR=1.1E-6
*
.MODEL D597 D IS=1.0E-12 N=.01
.ENDS FMMT597Q
*
*                          (C)  1991 ZETEX PLC
*
*   The copyright in this model  and  the design embodied belong to
*   Zetex PLC ("Zetex"). It is supplied free of charge by Zetex for
*   the purpose  of research  and design  and may be used or copied
*   intact (including this notice) for that purpose only. All other
*   rights  are  reserved.  The model  is believed  accurate but no
*   condition or warranty as to its  merchantability or fitness for
*   purpose  is  given  and  no liability  in respect of any use is
*   accepted by Zetex PLC, its distributors or agent.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham  OL9 8NP
