*
*  ZETEX  ZVN3310F Mosfet Spice Subcircuit   Last revision  3/5/00
*              
.SUBCKT ZVN3310F 3 4 5
* NODES: DRAIN GATE SOURCE
M1 3 2 5 5 MOD1   
RG 4 2 356
RL 3 5 1E8
C1 2 5 21.5P
C2 3 2 2.5P 
D1 5 3 DIODE1
*
.MODEL MOD1 NMOS VTO=1.736 RS=2.147 RD=1.682 IS=1E-15 KP=0.157
+CBD=25.5P PB=1
.MODEL DIODE1 D IS=6.12E-13 RS=.629
.ENDS ZVN3310F
*
*$
*
*                          (C)  1991 ZETEX PLC
*
*   The copyright in this model  and  the design embodied belong to
*   Zetex PLC ("Zetex"). It is supplied free of charge by Zetex for
*   the purpose  of research  and design  and may be used or copied
*   intact (including this notice) for that purpose only. All other
*   rights  are  reserved.  The model  is believed  accurate but no
*   condition or warranty as to its  merchantability or fitness for
*   purpose  is  given  and  no liability  in respect of any use is
*   accepted by Zetex PLC, its distributors or agent.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham  OL9 8NP
